US05633379
14.2 g (82.3 mmol) of 3-chloro-5-nitro-aniline am dissolved under nitrogen at -65° in 235 ml of dichloromethane, and a solution of 9.8 ml (82.3 mmol) of tert-butyl hypochlorite in 30 ml of dichloromethane is added dropwise thereto. The mixture is then stirred for 10 minutes at -65° and then a solution of 10.6 ml (82.3 mmol) of methylthioacetic acid ethyl ester in 30 ml of dichloromethane is added dropwise thereto. The mixture is stirred for a further 1 hour at -65° and then a solution of 11.5 ml (82.3 mmol) of triethylamine is added dropwise thereto. The mixture is allowed to rise to room temperature, then washed with a small amount of water, dried over sodium sulfate, filtered and concentrated by evaporation. The evaporation residue is taken up in 250 ml of diethyl ether; 30 ml of 2N hydrochloric acid are added and the mixture is stirred at room temperature for 16 hours. The red precipitate is filtered off, washed with diethyl ether and dried. 8.48 g (40% of theon. 1) of 6-chloro-3-methylthio-4-nitro-quinolin-2-one having a melting point of 213° (decorap.) are obtained.

reactant | 3-chloro-5-nitro-aniline | 82.3 mmol, 14.2 g | ClC=1C=C(N)C=C(C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | tert-butyl hypochlorite | 82.3 mmol, 9.8 ml | ClOC(C)(C)C | C4H9ClO
reactant | methylthioacetic acid ethyl ester | 82.3 mmol, 10.6 ml | C(C)OC(CC)=S | C5H10OS
reactant | triethylamine | 82.3 mmol, 11.5 ml | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 235 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 6-chloro-3-methylthio-4-nitro-quinolin-2-one | 8.48 g, 40% | ClC=1C=C2C(=C(C(NC2=CC1)=O)SC)[N+](=O)[O-] | C10H7ClN2O3S
